US06281357B1
(a) 5-bromo-N,N-dimethyl-α-oxo-1H-indole-3-acetamide
To a solution of 5-bromoindole (15.85 g, 81 mmol) in tetrahydrofuran (80 ml) at 0-5° C. under an atmosphere of nitrogen was added oxalyl chloride (7.76 ml 89 mmol) dropwise, maintaining the temperature below 5° C. The cloudy solution was then warmed to ambient temperature and stirred for 30 min, before being re-cooled to 0-5° C. The solution was then saturated with anhydrous dimethylamine for 30 min, which resulted in formation of a yellow precipitate. The slurry was then warmed to ambient temperature and diluted with demineralised water (100 ml) before being extracted with dichloromethane (3×50 ml). The organic extracts were combined and evaporated in vacuo to give a white solid. This was slurried in a mixture of ethyl acetate:hexane (1:1) (40 ml) for 8 hr and then filtered in vacuo to give the subtitle compound (20.28 g, 85%) as a white solid. m.p. 189-190° C.

reactant | 5-bromoindole | 81 mmol, 15.85 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | oxalyl chloride | 89 mmol, 7.76 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate hexane | 40 ml | C(C)(=O)OCC.CCCCCC
product | 5-bromo-N,N-dimethyl-α-oxo-1H-indole-3-acetamide | 20.28 g, 85% | BrC=1C=C2C(=CNC2=CC1)C(C(=O)N(C)C)=O | C12H11BrN2O2
